US05059698
Preparation of α-(2-methyl-1,3-dioxolan-2-yl)-acetoxyethyl methacrylate [(2-methyl-1,3-dioxolan-2-yl)-8-oxo-7-oxa-4-oxa-3-oxo-2-methyl-1-nonene]
21.4 g (0.1 mol) of 2-acetoacetoxyethyl methacrylate, 18.62 g (0.3 mol) of ethylene glycol and 0.19 g (1 mmol) of p-toluenesulfonic acid monohydrate (1 mol % of p-TsOH) are dissolved in 200 ml of benzene and boiled under reflux under a water separator. 1.7 g (5 mol %) of 2,2,4,6-Ralox® [2.2'-methylene-bis-(4,6-di-tert-butylphenol), a commercial product from Raschig GmbH, Germany] are added as a polymerization inhibitor.

reactant | 2-acetoacetoxyethyl methacrylate | 0.1 mol, 21.4 g | C(C(=C)C)(=O)OCCOC(CC(=O)C)=O | C10H14O5
reactant | ethylene glycol | 0.3 mol, 18.62 g | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid monohydrate | 1 mmol, 0.19 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 2.2'-methylene-bis-(4,6-di-tert-butylphenol) | C(C1=C(C(=CC(=C1)C(C)(C)C)C(C)(C)C)O)C1=C(C(=CC(=C1)C(C)(C)C)C(C)(C)C)O | C29H44O2
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | α-(2-methyl-1,3-dioxolan-2-yl)-acetoxyethyl methacrylate | C(C(=C)C)(=O)OC(COC(C)=O)C1(OCCO1)C | C12H18O6
